US05932745
4-Hydroxy-4-methyl-1-(pyrrolidin-1-yl)-pent-1-en-3-one
To an ice cold solution of 2-methyl-5-(pyrrolidin-1-yl)-pent-3-yn-2-ol (0.25 g) in dichloromethane (6 ml) was added in small portions 3-chlorophenylperoxybenzoic acid (0.285 g) over a period of about 2 minutes. After the reaction was stirred at 0° C. for 5 minutes, the mixture was passed over 20 weight equivalents of basic alumina (Brockmann Grade I, 150 mesh) and eluted with 5% methanol in dichloromethane. All fractions containing the desired amine N-oxide were combined and evaporated to near dryness in vacuo. The resulting residue was dissolved in methanol (20 ml) and heated to reflux temperatures for 7 hours. The solvent was then removed in vacuo and the residue was chromatographed over silica gel (50% ethyl acetate in hexanes was used as the eluant) to provide the desired product as an amber solid. MS(+ES), m/z: 184 (M+H)+.

reactant | 2-methyl-5-(pyrrolidin-1-yl)-pent-3-yn-2-ol | 0.25 g | CC(C)(C#CCN1CCCC1)O | C10H17NO
reactant | 3-chlorophenylperoxybenzoic acid | 0.285 g | ClC=1C=C(C=CC1)C1=C(C(=O)OO)C=CC=C1 | C13H9ClO3
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-Hydroxy-4-methyl-1-(pyrrolidin-1-yl)-pent-1-en-3-one | OC(C(C=CN1CCCC1)=O)(C)C | C10H17NO2
